US04064261
3-Trifluoromethyl-s-triazolo(3,4-b)benzothiazole
2-(2-(Trifluoroacetyl)hydrazino)benzothiazole (17.8 grams) was mixed with phenol (44.5 grams) and refluxed for 24 hours. The reaction mixture was then steam distilled to remove the phenol, and the oil remaining was extracted with chloroform/water. The chloroform was subsequently stripped and the remaining material, the desired 3-trifluoromethyl-s-triazolo(3,4-b)benzothiazole product, recrystallized from ethyl acetate. The product so obtained melted at 140°-1° C.

reactant | 2-(2-(Trifluoroacetyl)hydrazino)benzothiazole | 17.8 grams | FC(C(=O)NNC=1SC2=C(N1)C=CC=C2)(F)F | C9H6F3N3OS
reactant | phenol | 44.5 grams | C1(=CC=CC=C1)O | C6H6O
product | 3-Trifluoromethyl-s-triazolo(3,4-b)benzothiazole | FC(C1=NN=C2SC3=C(N21)C=CC=C3)(F)F | C9H4F3N3S
